US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-(p-chlorobenzoyl)-4-(2,6-dimethylanilino)butyric acid and ethyl sarcosinate and suitable processing produces ethyl N-[N-(p-chlorobenzoyl)-4-(2,6-dimethylanilino)butyryl]sarcosinate (oil), saponification of which and processing of the reaction product yields N-[N-(p-chlorobenzoyl)-4-(2,6-dimethylanilino)butyryl]sarcosine (M.P. 103° to 105°).

reactant | N-(p-chlorobenzoyl)-4-(2,6-dimethylanilino)butyric acid | ClC1=CC=C(C(=O)N(C2=C(C=CC=C2C)C)CCCC(=O)O)C=C1 | C19H20ClNO3
reactant | ethyl sarcosinate | N(C)CC(=O)OCC | C5H11NO2
product | ethyl N-[N-(p-chlorobenzoyl)-4-(2,6-dimethylanilino)butyryl]sarcosinate | ClC1=CC=C(C(=O)N(C2=C(C=CC=C2C)C)CCCC(=O)N(C)CC(=O)OCC)C=C1 | C24H29ClN2O4
